US06969713B2
i) (±)-N-(2,6-Dimethylphenyl)-2-(3-methylpiperazin-1-yl)acetamide
The subtitle compound was prepared from 2-chloro-N-(2,6-dimethylphenyl)acetamide (7 g) and (±)-2-methyl-piperazine (3.55 g) by the method of Example 15 step (ii) as a white solid. Yield 7 g.

reactant | 2-chloro-N-(2,6-dimethylphenyl)acetamide | 7 g | ClCC(=O)NC1=C(C=CC=C1C)C | C10H12ClNO
reactant | (±)-2-methyl-piperazine | 3.55 g | CC1NCCNC1 | C5H12N2
product | (±)-N-(2,6-Dimethylphenyl)-2-(3-methylpiperazin-1-yl)acetamide | CC1=C(C(=CC=C1)C)NC(CN1CC(NCC1)C)=O | C15H23N3O
